US05478826
(2R *,3R*)-N-[3-(2,4-Dichlorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)-2-butyl]glycine, ethyl ester
Following the procedure described in reference example 8, but starting from (2R*,3R*)-3-amino-1-(1H-1,2,4-triazol-1-yl)-2-(2,4-dichlorophenyl)-2-butanol (obtained according to patent EP 332387) and using ethyl bromoacetate instead of benzyl bromoacetate, the title compound was obtained in a similar yield.

reactant | (2R*,3R*)-3-amino-1-(1H-1,2,4-triazol-1-yl)-2-(2,4-dichlorophenyl)-2-butanol | N[C@@H]([C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl)C | C12H14Cl2N4O
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | (2R *,3R*)-N-[3-(2,4-Dichlorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)-2-butyl]glycine, ethyl ester | ClC1=C(C=CC(=C1)Cl)[C@]([C@@H](C)NCC(=O)OCC)(CN1N=CN=C1)O | C16H20Cl2N4O3
